US05246926
Pivaloyloxymethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl]ceph-3-em-4-carboxylate.
Pivaloyloxymethyl bromide (0.10 g, ca. 0.5 mmol) and sodium iodide (0.1 g) in acetone (1 ml) were stirred for 0.25 h, filtered and evaporated in vacuo. The iodide in toluene (0.5 ml) was added to sodium (6R,7R)-7-[2(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl]ceph-3-em-4-carboxylate (0.124 g, 0.25 mmol) in N-methylpyrrolidone (2 ml) and stirred for 0.5 h. The reaction mixture was diluted with ethyl acetate, washed twice with water, and with brine, dried, concentrated and flash chromatographed on silica gel eluting with 80,90,100% ethyl acetate in hexane to give the title compound (86 mg, 59%), νmax (CH2Cl2) 1780, 1753, 1735, 1682, 1532, 1374, 1121, 1046 cm-1 ; δH (250 MHz, CDCl3) (9H, s), 1.9-2.2 (1H, m), 2.4-2.8 (3H, m), 3.34 and 3.64, 3.48 and 3.59 (together 2H, 2ABq, J 18.9, 18.4 Hz), 4.08 (3H, s), 5.10, 5.11 (together 1H, 2d, J 4.9 Hz), 5.35 (2H, bs), 5.5-5.95 (3H, m), 6.00, 6.10 (together 1H, 2dd, J 9, 4.9 Hz), 6.85, 6.87 (together 1H, 2s), 7.52, 7.54 (together 1H, 2d, J 9 Hz); [mass spectrum: +ve ion (3-nitrobenzyl alcohol-sodium acetate) MH+(582) MNa+(604)].

reactant | Pivaloyloxymethyl bromide | ca. 0.5 mmol, 0.10 g | C(C(C)(C)C)(=O)OCBr | C6H11BrO2
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | iodide | [I-]
reactant | sodium (6R,7R)-7-[2(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl]ceph-3-em-4-carboxylate | 0.25 mmol, 0.124 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2CCC(O2)=O)C(=O)[O-])C1=O)=N/OC.[Na+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(5RS)-2-oxotetrahydrofuran-5-yl]ceph-3-em-4-carboxylate | 86 mg, 59% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2CCC(O2)=O)C(=O)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C23H27N5O9S2
